US06703392B2
2-[1-(4-Dimethylamino-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methoxy-benzyl)-acetamide:
prepared by reaction of 1-(4-Dimethylamino-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-methoxy-benzylamine

reactant | 1-(4-Dimethylamino-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | CN(C1=CC=C(CC2NCCC3=CC(=C(C=C23)OC)OC)C=C1)C | C20H26N2O2
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-methoxy-benzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
product | 2-[1-(4-Dimethylamino-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-methoxy-benzyl)-acetamide | CN(C1=CC=C(CC2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)NCC2=C(C=CC=C2)OC)C=C1)C | C30H37N3O4
